US04329518
Under a dry argon atmosphere, a stirred solution of 2,3,4,6-tetrafluoro-[1,1'-biphenyl] (23.0 g, 0.102 mole) in 400 ml of diethyl ether was cooled to -65°. During a 11/4 hour period 63.4 ml of a 1.6 M solution of n-butyl lithium in hexane was added to the reaction mixture, which was then stirred at -65° for 23/4 hours. During a one hour period, freshly crushed dry ice (750 g) was added to the mixture. The stirred reaction mixture was then allowed to warm to room temperature. The mixture was cooled; 400 ml of 6 N aqueous hydrochloric acid was added and the resultant mixture stirred vigorously for two hours. The mixture was poured into a separatory funnel, the aqueous phase separated and extracted with three 300 ml portions of diethyl ether. The combined extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give a solid residue. The solid was recrystallized from toluene:n-heptane (1:1) to give 2,4,5,6-tetrafluoro-[1,1'-biphenyl]-3-carboxylic acid (mp, 189°-190.5°).

reactant | 2,3,4,6-tetrafluoro-[1,1'-biphenyl] | 0.102 mole, 23.0 g | FC1=C(C(=CC(=C1F)F)F)C1=CC=CC=C1 | C12H6F4
reactant | n-butyl lithium | C(CCC)[Li]
reactant | dry ice | 750 g | C(=O)=O | CO2
reactant | hydrochloric acid | 6 N, 400 ml | Cl | ClH
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 2,4,5,6-tetrafluoro-[1,1'-biphenyl]-3-carboxylic acid | FC1=C(C(=C(C(=C1C(=O)O)F)F)F)C1=CC=CC=C1 | C13H6F4O2
